US05886008
G. 3-(N-Methylpyrrolidin-2-ylmethyl)-5-(2-nitrophenylamino)-1H-indole
(R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole and o-nitrofluorobenzene were used. Triethylamine was used as base, o-nitrofluorobenzene was used as solvent, and the reaction was heated at reflux for 24 hours. Column chromatography afforded the title compound (48%) as a red amorphous solid: 1H NMR (CDCl3) δ 9.62 (br s, NH), 8.77 (br s, NH), 8.19 (dd, J=8.7 and 1.5 Hz,1H), 7.47 (d, J=1.6 Hz, 1H), 7.38 (d, J=8.5 Hz, 1H), 7.29-7.23 (m, 1H), 7.09-7.00 (m, 3H), 6.69-6.64 (m, 1H), 3.20-3.12 (m, 2H), 2.63 (dd, J=14.0 and 9.5 Hz, 1H), 2.54-2.45 (m, 1H), 2.45 (s, 3H), 2.25 (dd, J=17.1 and 9.2 Hz, 1H), 1.91-1.54 (m, 4H); 13C NMR (CDCl3) δ 145.4, 135.7, 134.8, 132.1, 130.1, 128.6, 126.5, 123.6, 120.7, 116.4, 116.4, 116.1, 114.1, 112.2, 66.7, 57.5, 40.8, 31.5, 29.8, 21.9; FAB HRMS calculated for [C20H22N4O2.H] 351.1823, found 351.1797.

reactant | (R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H19N3
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | o-nitrofluorobenzene | [N+](=O)([O-])C1=C(C=CC=C1)F | C6H4FNO2
product | 3-(N-Methylpyrrolidin-2-ylmethyl)-5-(2-nitrophenylamino)-1H-indole | 48% | CN1C(CCC1)CC1=CNC2=CC=C(C=C12)NC1=C(C=CC=C1)[N+](=O)[O-] | C20H22N4O2
